US08309580B2
(1) ethyl 3-[methyl(4-nitrobenzoyl)amino]propanoate
To a mixture of 4-nitrobenzoic acid (16.7 g), ethyl 3-(methylamino)propanoate (13.1 g), 1-hydroxybenzotriazole monohydrate (18.4 g), and N,N-dimethylformamide (200 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (23.0 g), and the mixture was stirred at room temperature for 8 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and saturated aqueous sodium hydrogen carbonate, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (28.0 g, 100%) as an oil.

reactant | 4-nitrobenzoic acid | 16.7 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | ethyl 3-(methylamino)propanoate | 13.1 g | CNCCC(=O)OCC | C6H13NO2
reactant | 1-hydroxybenzotriazole monohydrate | 18.4 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 23.0 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | ethyl 3-[methyl(4-nitrobenzoyl)amino]propanoate | 28.0 g, 100% | CN(CCC(=O)OCC)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H16N2O5
